US07947727B2
Intermediate 5: [2-(Trifluoromethyl)-2-oxiranyl]methyl 4-methylbenzenesulfonate
A solution of the 3,3,3-trifluoro-2-hydroxy-2-({[(4-methylphenyl) sulfonyl]oxy}methyl)propyl 4-methylbenzenesulfonate (186.5 g, 398.5 mmol) in dichloromethane (2500 ml) was stirred under nitrogen whilst polymer supported carbonate resin (ex Fluke, ca. 3.5 mmoles carbonate/g resin) (232 g) was added. The mixture was stirred at room temperature overnight. The resin was filtered off and the resin was washed with dichloromethane. The combined filtrate and washings were concentrated under reduced pressure to give the title compound (116.2 g) as a brown oil.

reactant | 3,3,3-trifluoro-2-hydroxy-2-({[(4-methylphenyl) sulfonyl]oxy}methyl)propyl 4-methylbenzenesulfonate | 398.5 mmol, 186.5 g | CC1=CC=C(C=C1)S(=O)(=O)OCC(C(F)(F)F)(COS(=O)(=O)C1=CC=C(C=C1)C)O | C18H19F3O7S2
reactant | carbonate | ca. 3.5 mmoles, 232 g | C([O-])([O-])=O
solvent | dichloromethane | 2500 ml | ClCCl | CH2Cl2
product | [2-(Trifluoromethyl)-2-oxiranyl]methyl 4-methylbenzenesulfonate | 116.2 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1(OC1)C(F)(F)F | C11H11F3O4S
